US07259183B2
Preparation of (4-tert-butyl-benzyl)-[2-(3-difluoromethoxy-phenyl)-ethyl]-amine
0.55 ml of 4-tert-butylbenzaldehyde (9.19 mmol), 1.37 g of 2-(3-trifluoromethoxy-phenyl)-ethylamine hydrochloride (6.13 mmol) and 0.304 g of potassium carbonate (6.13 mmol) were suspended in 18 ml methanol at rt, and after stirring for 30 min at rt, were refluxed for 2.5 h. After cooling down to rt, 348 mg (9.19 mmol) of sodium borohydride were added and after stirring for 5 min at rt, the reaction mixture was refluxed for 22 h. After cooling down to rt, the reaction mixture was treated with 0.4 ml 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo to give 1.82 g off-white oil (89%). MS (ISP) 334.3 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 9.19 mmol, 0.55 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-(3-trifluoromethoxy-phenyl)-ethylamine hydrochloride | 6.13 mmol, 1.37 g | Cl.FC(OC=1C=C(C=CC1)CCN)(F)F
reactant | potassium carbonate | 6.13 mmol, 0.304 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 9.19 mmol, 348 mg | [BH4-].[Na+]
reactant | HCl | 1 N, 0.4 ml | Cl | ClH
solvent | methanol | 18 ml | CO | CH4O
product | (4-tert-butyl-benzyl)-[2-(3-difluoromethoxy-phenyl)-ethyl]-amine | 1.82 g, 89% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)OC(F)F)C=C1 | C20H25F2NO
